US07842758B2
1,4-Di-n-octyloxybenzene
Hydroquinone (10.00 g, 9.08×10−2 mol) was dissolved in 100 ml of ethanol. After addition of KOH (10.79 g, 0.192 mol), the solution was stirred under reflux for 20 min. 1-Bromooctane (33.0 ml, 0.191 mol) was added dropwise to the light brown solution over 1 h, followed by stirring under reflux for 3 h. After cooling, CHCl3 and H2O were added to the reaction mixture and the organic layer was collected. The aqueous layer was further washed with CHCl3. The combined organic layers were washed with aqueous NaHCO3 and dried over Na2SO4. After the solvent was evaporated, the residue was chromatographed on silica gel with 1:1 hexane:CHCl3 as the eluent. Yield=27.33 g (90% based on 10.00 g of hydroquinone). 1H NMR (300 MHz, CDCl3): δ 6.82 (s, 4H, Ph-H), 3.90 (t, 4H, J=6.6 Hz, —OCH2—), 1.75 (quint, 4H, J=7.0 Hz, —OCCH2—), 1.37-1.51 (m, 4H, —OCCCH2), 1.17-1.37 (m, 16H, —CH2—), 1.20-1.49 (m, 24H, —CH2—), 0.88 (t, 6H, J=6.6 Hz, —CH3). CI MS m/z: 334.287 (M+) (calcd 334.287).

reactant | Hydroquinone | 9.08×10−2 mol, 10.00 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | KOH | 0.192 mol, 10.79 g | [OH-].[K+]
reactant | 1-Bromooctane | 0.191 mol, 33.0 ml | BrCCCCCCCC | C8H17Br
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | H2O | O | H2O
product | 1,4-Di-n-octyloxybenzene | C(CCCCCCC)OC1=CC=C(C=C1)OCCCCCCCC | C22H38O2
